US09238656B2
(1S,2S,3R,4R)-3-[6-Bromo-2-(3-fluoro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXXII)
In a similar fashion to compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (100.00 mg, 0.29568 mmol), 3-FC6H4CHO (40.4 mg, 0.325 mmol) and Ammonium acetate (45.6 mg, 0.591 mmol) were reacted to yield 84.7 mg (65%) of the title compound. (300 MHz, DMSO-d6) 13.33 (s, 1H), 8.18 (m, 2H), 8.04 (s, 1H), 7.75 (s, 1H), 7.41 (t, J=16.5 Hz, 8 Hz, 2H), 7.22 (s, 1H), 6.39 (d, J=15 Hz, 2H), 5.22 (t, J=17 Hz, 8.5 Hz, 1H), 2.89 (s, 1H), 2.78 (s, 1H), 2.62 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.39 (d, J=8 Hz, 1H). MS=444 (M+H), HPLC: 2.56 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.29568 mmol, 100.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 3-FC6H4CHO | 0.325 mmol, 40.4 mg | FC=1C=C(C=CC1)C=O | C7H5FO
reactant | Ammonium acetate | 0.591 mmol, 45.6 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(3-fluoro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 84.7 mg, 65% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC(=CC=C2)F)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H17BrFN5O
